### ISSUE TITLE
BZMathlib review: post-#5077 audit of fpPoly_dvd_trans cluster (3 rcases-form + 2 calc-form sites; helper extraction)

### ISSUE THREAD

**Issue by kim-em** [kim-em/hex-dev#5082]
## Current state

depends-on: #5077

`HexBerlekampZassenhausMathlib/Basic.lean` is in the middle of an
`Hex.FpPoly p`-level divisor-transitivity helper extraction
mirroring the `Hex.ZPoly`-level work that closed under #5069's
audit. The currently-claimed #5077 will:

- Extract `private theorem fpPoly_dvd_trans` (signature
  `{p : Nat} [Hex.ZMod64.Bounds p] {a b c : Hex.FpPoly p}
  (hab : a ∣ b) (hbc : b ∣ c) : a ∣ c`) with a docstring matching
  the `zpoly_dvd_trans` framing convention.
- Rewire the three `Hex.FpPoly p`-level `rcases`/`refine`/`rw`
  inline divisor-transitivity sites at the pre-rewire
  `Basic.lean:4985-4989`, `Basic.lean:5722-5727`,
  `Basic.lean:5790-5804` neighbourhoods onto the helper.
- Either rewire (if the shape matches) or document (if not) the
  two calc-form `factor ∣ core` candidate sites at the pre-rewire
  `Basic.lean:1347` and `Basic.lean:1383` neighbourhoods inside
  `monicModPImage_dvd_monicModularImage_of_dvd_of_choosePrimeData?_some`
  (line 1287 vicinity).

After #5077 lands, `HexBerlekampZassenhausMathlib/Basic.lean`
should contain:

- **One** `private theorem fpPoly_dvd_trans` definition at a
  minimal-hoist position exposing it to the lowest call site
  (post-rewire `Basic.lean:1287` neighbourhood if the calc-form
  sites at 1347/1383 are rewired; otherwise around the lowest
  rcases-form caller at `Basic.lean:4985` neighbourhood).
- **3 + (0 or 2)** call-site invocations — exact count depends on
  whether #5077's worker decides to rewire the calc-form 1347/1383
  candidate sites.

This issue audits the post-#5077 state of the `fpPoly_dvd_trans`
cluster against the same three invariants applied to the
`zpoly_dvd_trans` cluster in #5048 / #5057 / #5069 audits, to the
Monic-route cluster in #5031 / #5039, and to the `_size_pos` pair
in #5053 / #5057:

1. **Call-site coverage.** Every site in `Basic.lean`,
   `IntReductionMod.lean`, and `Recovery.lean` that derives
   `a ∣ c` from `a ∣ b` and `b ∣ c` at the `Hex.FpPoly p` level
   (executable, *not* Mathlib `Polynomial`-level) routes through
   `fpPoly_dvd_trans` rather than inlining the
   `obtain`/`refine`/`mul_assoc` chain or the calc-form
   `_ := …` chain. Both shapes are in scope:
   - rcases-form `rcases h_dvd with ⟨q, hq⟩; refine ⟨k * q, ?_⟩;
     rw [...]; exact mul_assoc_poly _ _ _` (sites 4985/5722/5790
     in the pre-rewire tree);
   - calc-form `_ := congrArg (fun x => x * q₂) hq₁ ; _ :=
     mul_assoc_poly _ _ _` (sites 1347/1383 in the pre-rewire
     tree).

2. **Framing, docstring, and hoist correctness.** The
   `fpPoly_dvd_trans` declaration:
   - Has a docstring matching the
     [`zpoly_dvd_trans` post-#5048 audited form](
     https://github.com/kim-em/hex/issues/5069#issuecomment-4481345752)
     — contract-first sentence stating the executable
     `Hex.FpPoly p`-level divisor-transitivity claim, followed by
     a semantic note about the bespoke `Dvd` instance
     (`instDvdOfAddOfMul`, per the inline workaround comment at
     `Basic.lean:4982-4984`) being the reason this helper exists
     at all. No `(#NNNN)` PR-number references, no session
     metadata, no "extracted from `Basic.lean:NNNN`" / "hoisted
     from …" provenance hints.
   - Is `private theorem` (not `theorem`).
   - The hoist target is the minimal position needed to expose
     the helper to its lowest call site. The audit comment should
     name the immediately-preceding and immediately-following
     declarations and confirm the immediately-preceding
     declaration's body does not mention `fpPoly_dvd_trans`
     (i.e., the hoist isn't gratuitous).

3. **Cross-file consistency.** `fpPoly_dvd_trans` is defined
   exactly once across `Basic.lean`, `IntReductionMod.lean`, and
   `Recovery.lean` (no peer / duplicate / shadow).

The audit is read-only: a single comment on this issue containing
the three invariant verdicts with verbatim grep commands and
expected-vs-observed counts. It mirrors the structure of the
#5048 / #5053 / #5057 / #5069 audit comments.

## Deliverables

Post a single audit comment on this issue with three sections.

1. **Invariant 1 (call-site coverage).** Run at least these
   greps from the repository root and report each output
   verbatim:

   ```
   git grep -nE "obtain .*hu.*:= .*_dvd_" HexBerlekampZassenhausMathlib/*.lean
   git grep -nE "refine .*⟨.*\* .*, \?_⟩" HexBerlekampZassenhausMathlib/*.lean
   git grep -nE "Hex\.DensePoly\.mul_assoc_poly _ _ _" \
        HexBerlekampZassenhausMathlib/*.lean
   git grep -nE "Hex\.FpPoly\.mul_assoc" HexBerlekampZassenhausMathlib/*.lean
   git grep -nE "rw \[.*\]; exact .*mul_assoc_poly _ _ _" \
        HexBerlekampZassenhausMathlib/*.lean
   git grep -n "fpPoly_dvd_trans" HexBerlekampZassenhausMathlib/Basic.lean
   git grep -nE "_ := .*congrArg .*\(fun x =>" \
        HexBerlekampZassenhausMathlib/Basic.lean
   ```

   For every `mul_assoc_poly _ _ _` / `mul_assoc` / `_dvd_*` /
   calc-form match, classify as one of:
   - **routed** — already `fpPoly_dvd_trans` (post-#5077 rewire);
   - **helper-internal** — the single `exact mul_assoc_poly _ _ _`
     (or `Hex.FpPoly.mul_assoc`, whichever #5077 picked) inside
     the body of `fpPoly_dvd_trans` itself at its hoisted
     location;
   - **non-transitivity** — `mul_assoc_poly` or calc-form `.trans`
     used in a context that is *not* a divisor-transitivity
     derivation at the `Hex.FpPoly p` level (e.g., as part of a
     different algebraic rewrite, an `Hex.ZPoly`-level
     transitivity routed through `zpoly_dvd_trans`, or a
     `Hex.DensePoly Rat`-level rewrite). Show enclosing-theorem
     name and a one-line description of the surrounding intent
     so the reader can confirm the classification;
   - **missed transitivity site** — inline `a ∣ b ∧ b ∣ c → a ∣ c`
     proof at the `Hex.FpPoly p` level (either shape) that should
     have been rewired but was not. For each such site, list line
     number, enclosing theorem, exact inline shape, and the
     projected one-line `fpPoly_dvd_trans …` rewire. Use the
     same draft-issue-body format as #5048's deviation report so
     the next planner cycle can lift it verbatim.

   Report the post-#5077 expected counts (worker-dependent):
   - If #5077 rewired the calc-form 1347/1383 candidates:
     `1 definition + 5 rewired call sites = 6 occurrences` of
     `fpPoly_dvd_trans` in `Basic.lean`.
   - If #5077 documented and skipped the calc-form 1347/1383
     candidates: `1 definition + 3 rewired call sites = 4
     occurrences`, with sites 1347/1383 still flagged as missed
     transitivity sites under the **missed** classification (so
     the next planner cycle can pick them up).
   - 0 occurrences in `IntReductionMod.lean` and `Recovery.lean`
     in either case.

2. **Invariant 2 (framing, docstring, and hoist correctness).**
   Open `HexBerlekampZassenhausMathlib/Basic.lean` at the
   `fpPoly_dvd_trans` declaration site and verify:
   - The docstring matches the `zpoly_dvd_trans` post-#5048
     audited form (contract-first sentence + bespoke-`Dvd`-
     instance semantic note); confirm the bespoke-`Dvd`
     reference points to `instDvdOfAddOfMul` (per
     `Basic.lean:4982-4984`'s workaround comment) and not to the
     `Mul`-derived `semigroupDvd` instance used at the ZPoly
     layer.
   - No `(#NNNN)` PR-number references, no session metadata,
     no provenance hints in the docstring or surrounding
     comments.
   - The declaration is `private theorem` (not `theorem`).
   - The hoist target is the minimal position needed to expose
     the helper to its lowest call site (after #5077, this is
     either `Basic.lean:1287` neighbourhood if the calc-form
     candidates were rewired, or `Basic.lean:4985` neighbourhood
     if they were not). Name the immediately-preceding and
     immediately-following declarations and confirm that the
     immediately-preceding declaration's body does not mention
     `fpPoly_dvd_trans`.

3. **Invariant 3 (cross-file consistency).** Run:

   ```
   git grep -c "fpPoly_dvd_trans" \
       HexBerlekampZassenhausMathlib/Basic.lean \
       HexBerlekampZassenhausMathlib/IntReductionMod.lean \
       HexBerlekampZassenhausMathlib/Recovery.lean
   ```

   Expected: `1 def + N uses` in `Basic.lean` (where `N ∈ {3, 5}`
   per the #5077 worker's calc-form decision), 0 in
   `IntReductionMod.lean`, 0 in `Recovery.lean`. If
   `IntReductionMod.lean` or `Recovery.lean` shows a count > 0,
   the helper has either been duplicated or prematurely exported;
   report which.

   Additionally confirm no second `private theorem fpPoly_dvd_trans`
   anywhere in the BZMathlib tree (a
   `git grep -n "private theorem fpPoly_dvd_trans"` should return
   exactly one match, at the hoisted location).

If any invariant fails, the audit comment must end with a
deviation report listing each failure with file path, line number,
enclosing theorem, and a one-line description of the projected
fix. Use the same draft-issue-body format as the #5048 / #5069
deviation reports.

## Context

This audit is the natural follow-on to #5069's audit of the
`zpoly_dvd_trans` cluster. The two clusters are parallel:
`zpoly_dvd_trans` covers the `Hex.ZPoly`-level transitivity (whose
bespoke `Dvd` is the `Mul`-derived `semigroupDvd`), while
`fpPoly_dvd_trans` covers the `Hex.FpPoly p`-level transitivity
(whose bespoke `Dvd` is `instDvdOfAddOfMul`). Mathlib's
`dvd_trans` does not see through either bespoke instance, hence
the need for both helpers.

If the audit surfaces missed transitivity sites (especially the
calc-form 1347/1383 candidates if #5077's worker chose to defer
them), the deviation report's draft-issue-body must be in a form
the next planner cycle can lift verbatim into a fresh feature
issue.

## Verification

The audit comment must be self-contained: every grep command's
output reported verbatim, every line-number reference accurate
against the merged tree, every classification decision justified
with enclosing-theorem name. The auditor should `git fetch
origin main` immediately before running the greps so the
working tree matches the audit target.

**Comment by kim-em** [comment]
Session: `d54062a9-5dab-4204-b954-611cbce8fe74` Branch: `agent/d54062a9`

**Comment by kim-em** [comment]
Claimed by session `a0959563-2df3-4597-a508-ee20a091478c` on branch `agent/a0959563`

**Comment by kim-em** [comment]
## Post-#5077 audit of the `fpPoly_dvd_trans` cluster

Audit target: tip of `main` at `df8da6df0ce6bbe97c0519ac70a02a148ad3e085` (post-#5083, which closed #5077).

Note: #5083's worker extended the rewire beyond the 3+(0 or 2) sites the issue body anticipated, landing **8** rewired call sites against the single declaration. The three additional sites are genuine `Hex.FpPoly p`-level transitivity derivations in `Basic.lean` that the pre-#5077 planning pass had not enumerated. All three invariants pass.

### Invariant 1 — call-site coverage: PASS

Verbatim greps:

```
$ git grep -nE "obtain .*hu.*:= .*_dvd_" HexBerlekampZassenhausMathlib/*.lean
(no output)

$ git grep -nE "refine .*⟨.*\* .*, \?_⟩" HexBerlekampZassenhausMathlib/*.lean
HexBerlekampZassenhausMathlib/Basic.lean:1296:  refine ⟨q * v, ?_⟩
HexBerlekampZassenhausMathlib/Basic.lean:2064:  refine ⟨q * v, ?_⟩
HexBerlekampZassenhausMathlib/Basic.lean:5661:              refine ⟨ka * kb, ?_⟩
HexBerlekampZassenhausMathlib/IntReductionMod.lean:2549:          refine ⟨y * k, ?_⟩

$ git grep -nE "Hex\.DensePoly\.mul_assoc_poly _ _ _" HexBerlekampZassenhausMathlib/*.lean
HexBerlekampZassenhausMathlib/Basic.lean:5666:                      Hex.DensePoly.mul_assoc_poly _ _ _
HexBerlekampZassenhausMathlib/Basic.lean:5669:                        (Hex.DensePoly.mul_assoc_poly _ _ _).symm
HexBerlekampZassenhausMathlib/Basic.lean:5675:                        (Hex.DensePoly.mul_assoc_poly _ _ _)
HexBerlekampZassenhausMathlib/Basic.lean:5677:                      (Hex.DensePoly.mul_assoc_poly _ _ _).symm

$ git grep -nE "Hex\.FpPoly\.mul_assoc" HexBerlekampZassenhausMathlib/*.lean
HexBerlekampZassenhausMathlib/Basic.lean:1288:`c = a * (q * v)` step explicitly via `Hex.FpPoly.mul_assoc` because the
HexBerlekampZassenhausMathlib/Basic.lean:1298:  exact Hex.FpPoly.mul_assoc _ _ _

$ git grep -nE "rw \[.*\]; exact .*mul_assoc_poly _ _ _" HexBerlekampZassenhausMathlib/*.lean
(no output)

$ git grep -n "fpPoly_dvd_trans" HexBerlekampZassenhausMathlib/Basic.lean
HexBerlekampZassenhausMathlib/Basic.lean:1291:private theorem fpPoly_dvd_trans
HexBerlekampZassenhausMathlib/Basic.lean:1358:    fpPoly_dvd_trans hmonic_factor_dvd_factor hfactor_dvd_core
HexBerlekampZassenhausMathlib/Basic.lean:1383:  exact fpPoly_dvd_trans hmonic_factor_dvd_core hcore_dvd_monic
HexBerlekampZassenhausMathlib/Basic.lean:4916:      fpPoly_dvd_trans hgg hmonicImage_dvd
HexBerlekampZassenhausMathlib/Basic.lean:4972:      fpPoly_dvd_trans hg₁_dvd_g₂ hmonicImage_dvd
HexBerlekampZassenhausMathlib/Basic.lean:5058:        exact fpPoly_dvd_trans hg₂sq_dvd hg₁g₂_dvd_modP
HexBerlekampZassenhausMathlib/Basic.lean:5684:              exact fpPoly_dvd_trans hrawGcd_sq_dvd_prod h_dvd
HexBerlekampZassenhausMathlib/Basic.lean:5758:              exact fpPoly_dvd_trans htail_dvd_cons h_dvd
HexBerlekampZassenhausMathlib/Basic.lean:5835:      fpPoly_dvd_trans hdd hmonicImage_dvd

$ git grep -nE "_ := .*congrArg .*\(fun x =>" HexBerlekampZassenhausMathlib/Basic.lean
(no output)
```

Classification of every non-`fpPoly_dvd_trans` match:

| Site | Enclosing context | Classification |
|---|---|---|
| `Basic.lean:1296` | body of `fpPoly_dvd_trans` itself | **helper-internal** (witness build `⟨q * v, _⟩`) |
| `Basic.lean:1288` (docstring) | docstring of `fpPoly_dvd_trans` | **helper-internal** (textual reference) |
| `Basic.lean:1298` | body of `fpPoly_dvd_trans` itself | **helper-internal** (`exact Hex.FpPoly.mul_assoc _ _ _`) |
| `Basic.lean:2064` | body of `zpoly_dvd_trans` (sibling `Hex.ZPoly`-level helper) | **non-transitivity** (different cluster: ZPoly layer, routed through its own helper) |
| `Basic.lean:5661,5666,5669,5675,5677` | proof of `hrawGcd_sq_dvd_prod` inside `quadraticMultifactorCoprimeSplits_of_factorProduct_no_squared` (recursive step) | **non-transitivity** — algebraic associativity rearrangement constructing the witness `(rawGcd * rawGcd) * (ka * kb) = (rawGcd * ka) * (rawGcd * kb) = g * factorProduct (h :: tail)` for a "product-of-divisors divides product" derivation from `rawGcd ∣ g` and `rawGcd ∣ factorProduct (h :: tail)`; the actual divisor-transitivity step that follows (line 5684) is already routed through `fpPoly_dvd_trans` |
| `IntReductionMod.lean:2549` + the three `mul_assoc_poly` invocations on 2550–2552 | inline `dvd_foldl_one_of_mem : ∀ (x : Hex.ZPoly) (xs : List Hex.ZPoly), x ∈ xs → x ∣ xs.foldl (· * ·) 1` inductive step | **non-transitivity** — `Hex.ZPoly`-level (not `Hex.FpPoly p`-level), and the derivation shape is `x ∣ y → x ∣ z * y` (one-step post-multiplication of a divisibility witness), not `a ∣ b ∧ b ∣ c → a ∣ c` |

The eight rewired `Hex.FpPoly p`-level divisor-transitivity call sites — `Basic.lean:1358, 1383, 4916, 4972, 5058, 5684, 5758, 5835` — each consume two `∣` hypotheses and emit the composed `∣`. Detailed sites:

- `1358` (`hmonic_factor_dvd_core` in `monicModPImage_dvd_monicModularImage_of_dvd_of_choosePrimeData?_some`): chains `monicModPImage … ∣ modP factor` and `modP factor ∣ modP core`.
- `1383` (final line of the same theorem): chains `monicModPImage … ∣ modP core` and `modP core ∣ monicModularImage (modP core)`.
- `4916` (`hg_dvd_mod` inside the no-squared discharger feeding `berlekampFactor_factors_nodup_of_no_squared`): chains `g * g ∣ monicImage modP_f` and `monicImage modP_f ∣ modP f`.
- `4972` (`hg₁g₂_dvd_modP`, sibling discharger): chains `g₁ * g₂ ∣ monicImage modP_f` and `monicImage modP_f ∣ modP f`.
- `5058` (`hg₂sq_dvd_modP`, same sibling): chains `g₂ * g₂ ∣ scale u (g₂ * g₂)` (= `g₁ * g₂`) and `g₁ * g₂ ∣ modP f`.
- `5684` (`hrawGcd_sq_dvd_X` inside `quadraticMultifactorCoprimeSplits_of_factorProduct_no_squared`): chains `rawGcd * rawGcd ∣ factorProduct (g :: h :: tail)` and `factorProduct (g :: h :: tail) ∣ X`.
- `5758` (`hrest_dvd`, inductive step in the same theorem): chains `factorProduct (h :: tail) ∣ factorProduct (g :: h :: tail)` and `factorProduct (g :: h :: tail) ∣ X`.
- `5835` (`hd_dvd_mod` inside `QuadraticMultifactorCoprimeSplits_of_choosePrimeData`): chains `d * d ∣ monicImage (modP primeData.p core)` and `monicImage (modP primeData.p core) ∣ modP primeData.p core`.

No `missed transitivity site` matches. Observed `fpPoly_dvd_trans` count in `Basic.lean`: **9 = 1 definition + 8 rewired call sites**. Expected was `4 (3 rcases-form + helper) or 6 (5 sites + helper)`; observed `9` is over-coverage, not deviation. `IntReductionMod.lean` and `Recovery.lean` show 0 occurrences each.

### Invariant 2 — framing, docstring, hoist correctness: PASS

The declaration at `Basic.lean:1287-1298`:

```
/-- Transitivity of `Hex.FpPoly p`-level divisibility. Discharges the
`c = a * (q * v)` step explicitly via `Hex.FpPoly.mul_assoc` because the
`Dvd` instance on `Hex.FpPoly p` is the bespoke `instDvdOfAddOfMul`
(witness shape `b = a * r`), and `dvd_trans` does not see through that. -/
private theorem fpPoly_dvd_trans
    {p : Nat} [Hex.ZMod64.Bounds p]
    {a b c : Hex.FpPoly p} (hab : a ∣ b) (hbc : b ∣ c) : a ∣ c := by
  obtain ⟨q, hq⟩ := hab
  obtain ⟨v, hv⟩ := hbc
  refine ⟨q * v, ?_⟩
  rw [hv, hq]
  exact Hex.FpPoly.mul_assoc _ _ _
```

- **Contract-first sentence**: "Transitivity of `Hex.FpPoly p`-level divisibility." ✓
- **Bespoke-`Dvd`-instance semantic note**: names `instDvdOfAddOfMul` with witness shape `b = a * r`, and gives the reason (`dvd_trans` does not see through that). Matches the post-#5048 audited form of `zpoly_dvd_trans`. ✓ The reference points to `instDvdOfAddOfMul`, not the `Mul`-derived `semigroupDvd` used at the ZPoly layer. ✓
- **No `(#NNNN)` PR-number references, no session metadata, no provenance hints** in the docstring or surrounding comments. ✓
- **`private theorem`** (not `theorem`). ✓
- **Hoist target**: the immediately-preceding declaration is `theorem modP_dvd_modP_of_dvd` (`Basic.lean:1279-1285`); its body contains `rcases`, `refine`, `rw [hq, modP_mul]` and does not mention `fpPoly_dvd_trans`, so the hoist is not gratuitous. The immediately-following declaration is `theorem monicModPImage_dvd_monicModularImage_of_dvd_of_choosePrimeData?_some` (starts at `Basic.lean:1300`), which is the lowest call site (uses `fpPoly_dvd_trans` at `1358` and `1383`). The hoist position at `1287-1298` is minimal — placing the helper any lower than line 1300 would put it inside its lowest caller, and any higher would be gratuitous.

### Invariant 3 — cross-file consistency: PASS

```
$ git grep -c "fpPoly_dvd_trans" \
    HexBerlekampZassenhausMathlib/Basic.lean \
    HexBerlekampZassenhausMathlib/IntReductionMod.lean \
    HexBerlekampZassenhausMathlib/Recovery.lean
HexBerlekampZassenhausMathlib/Basic.lean:9
```

- `Basic.lean`: **9** = 1 def + 8 uses. ✓
- `IntReductionMod.lean`: **0** (file omitted from output because count is 0). ✓
- `Recovery.lean`: **0** (file omitted from output because count is 0). ✓

```
$ git grep -n "private theorem fpPoly_dvd_trans" HexBerlekampZassenhausMathlib/
HexBerlekampZassenhausMathlib/Basic.lean:1291:private theorem fpPoly_dvd_trans
```

Exactly one match. No peer, no duplicate, no shadow. ✓

### Summary

All three invariants pass. #5083 (which closed #5077) successfully extracted `private theorem fpPoly_dvd_trans` at a minimal hoist position with the prescribed docstring framing, and rewired 8 call sites — both calc-form candidates (1347/1383 vicinity → now `1358`/`1383`) and three additional FpPoly-level transitivity sites in `Basic.lean` beyond the 3 rcases-form sites the issue body initially enumerated. No deviations. No follow-up issue required.
